USRE030352
To a solution of p-phenylenediamine (31.08 g., 0.287 mole) in a mixture of 360 ml. of hexamethylphosphoramide and 180 ml. of N-methylpyrrolidone-2 is added 3.36 g. of p-aminobenzoic acid, using water bath cooling. To this cooled solution is added terephthaloyl chloride (60.90 g., 0.300 mole.) The reaction mixture is stirred overnight, then combined with water in a blender to precipitate polymer. The product is washed with water and dried in a vacuum oven at 65° C. The product is then combined with acetone in a blender, the mixture filtered, and the product collected and dried at 65° C. in a vaccum oven. There is obtained a quantitative yield of poly(p-phenylene terephthalamide) (ηinh=1.32).

reactant | p-phenylenediamine | 0.287 mole, 31.08 g | C1=CC(=CC=C1N)N | C6H8N2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | p-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | terephthaloyl chloride | 0.300 mole, 60.90 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
solvent | water | O | H2O
product | poly(p-phenylene terephthalamide) | quantitative yield | C1=CC(=CC=C1C(=O)O)C(=O)O.C1=CC(=CC=C1N)N | InChI=1S/C8H6O4.C6H8N2/c9-7(10)5-1-2-6(4-3-5)8(11)12;7-5-1-2-6(8)4-3-5/h1-4H,(H,9,10)(H,11,12);1-4H,7-8H2
